US07531532B2
3-[6-(3-Fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyrimidin-4-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea
After adding a solution of 2-(4-fluorophenyl)acetyl isothiocyanate in toluene (0.2 M, 3.4 ml) to a solution of crude 3-[6-(4-amino-3-fluorophenoxy)pyrimidin-4-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea and (+)-10-camphorsulfonic acid (86.2 mg) in ethanol (2.5 ml) at room temperature, the mixture was stirred for 4 hours. The reaction mixture was then partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate and brine in that order and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate). Fractions containing the target compound were concentrated under reduced pressure, and diethyl ether (2.0 ml) was added to the resultant residue to precipitate crystals. The crystals were filtered and then subjected to aeration drying to provide the title compound (21.0 mg, 10%) as white crystals.

reactant | 2-(4-fluorophenyl)acetyl isothiocyanate | FC1=CC=C(C=C1)CC(=O)N=C=S | C9H6FNOS
reactant | 3-[6-(4-amino-3-fluorophenoxy)pyrimidin-4-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | NC1=C(C=C(OC2=CC(=NC=N2)NC(N(C2CCN(CC2)C)C)=O)C=C1)F | C18H23FN6O2
reactant | (+)-10-camphorsulfonic acid | 86.2 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 0.2 M, 3.4 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 3-[6-(3-Fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyrimidin-4-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | 21.0 mg, 10% | FC=1C=C(OC2=CC(=NC=N2)NC(N(C2CCN(CC2)C)C)=O)C=CC1NC(=S)NC(CC1=CC=C(C=C1)F)=O | C27H29F2N7O3S
